Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
dizziness, gait unsteadiness
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
Mr. ___ is an ___ old man with a past medical history 
of
HTN, hyperlipidemia, pre-DM and prostate cancer who presents at
the request of his neighbor for a month of progressive dizziness
and gait unsteadiness. 

History is obtained from patient's neighbor, who was concerned
about him and helped patient and his wife bring the patient to a
PCP appointment today. She reports that for the past ___ weeks,
she has noticed that ___ has been complaining of dizziness,
like a lightheaded feeling. He has also been quite unsteady when
walking or standing, tending to lean back when standing and has
fallen four times with possible head strike. She has noticed 
that
he has looked more pale and thinner and his wife reports a 20 lb
weight loss in the past few months. 

The patient himself denies any symptoms. Reports he has been
walking fine and denies any complaints. He will endorse some
ongoing lightheadedness with standing and nausea. No headaches 
or
vomiting. 

His wife reports that he has been more irritable lately, but
otherwise has not had any significant personality change. She
does note some memory impairment, however. 

According to the ED, they spoke with the neighbor who was
concerned about the state of the patient's home. There was an
apparent hoarding situation and she is very concerned about him
returning there. 

The wife does note that the patient has been going to work. She
drops him off nightly around 11pm and picks him up at 7am. He
works as a ___. He does not pay finances or drive. They go
grocery shopping together and he is otherwise independent of
other ADLs. 

On neuro ROS, the pt does endorse double vision when looking to
the left, but is inconsistent about this. 

He denies headache, loss of vision, blurred vision, dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, parasthesiae. No bowel
or bladder incontinence or retention. Denies difficulty with
gait.

On general review of systems, as above. 
The pt denies recent fever or chills.  No night sweats or recent
weight loss or gain. Denies cough, shortness of breath.  Denies
chest pain or tightness, palpitations.  Denies nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in
bowel or bladder habits.  No dysuria.  Denies arthralgias or
myalgias. Denies rash.

 
Past Medical History:
HYPERTENSION                                                    
HYPERLIPIDEMIA                                                  
LUNG NODULE                                                     
PRE-DIABETES                                                    
DIVERTICULOSIS                                                  
___ ___                                                       
H/O PROSTATE CANCER                                             
s/p radiation in ___ sees urology at ___
 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
EXAM ON ADMISSION:
Physical Exam:
Vitals: T: 97.4 P: 101  R: 16  BP: 160/61  SaO2: 98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, dry MM, no lesions noted
in oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to self, ___, ___. 
He
is unable to relay history. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. He has a right INO,
but otherwise full extraocular movements. Bilateral blink to
threat. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, paratonia throughout. No pronator drift
bilaterally.
Left > right arm postural tremor. No asterixis. 
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5      5   
R  5    ___   ___    5   5     5      5   

-Sensory: No deficits to light touch, pinprick. Some misses on
proprioception on the right toe only. Romberg positive with eyes
open. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  2  2    2    2   0
Plantar response was flexor bilaterally.

-Coordination: BIlateral end intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF when he closes one eye (gets 
rid
of double vision). Leans backwards when sitting at edge of bed. 

-Gait: Wide-based, short, small steps. Two person assist and
staggers to both sides. 

EXAM ON DISCHARGE:
Mental status: 
No evidence of aphasia. Speaks in complete sentences that are
detailed. Appears to be confabulating.

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 3 mm
III, IV, VI: INO right eye with nystagmus with adduction, does 
not cross midline
Possible right eye exotropia. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: The shoulders rise symmetrically with shrugging. 
XII: Tongue protrudes in midline.

Motor: 
Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

Sensory: 
No deficits to light touch throughout.  He appreciates
cold temperature on the sole and dorsal aspect of feet.
proprioception intact at thumb

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

Coordination: 
No difficulty with finger to nose and keeping a rhythmic beat in
the upper right and left extremities.  

Gait: 
not tested today

 
Pertinent Results:
___ 06:05AM BLOOD WBC-7.2 RBC-3.99* Hgb-9.7* Hct-32.8* 
MCV-82 MCH-24.3* MCHC-29.6* RDW-14.6 RDWSD-43.1 Plt ___
___ 10:53AM BLOOD Neuts-75.6* Lymphs-12.5* Monos-8.9 
Eos-2.0 Baso-0.5 Im ___ AbsNeut-5.04 AbsLymp-0.83* 
AbsMono-0.59 AbsEos-0.13 AbsBaso-0.03
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD Glucose-111* UreaN-19 Creat-1.0 Na-140 
K-4.9 Cl-98 HCO3-28 AnGap-14
___ 06:05AM BLOOD ALT-17 AST-14 LD(LDH)-133 AlkPhos-77
___ 06:05AM BLOOD Albumin-3.4* Calcium-9.6 Phos-4.1 Mg-1.7
___ 08:21AM BLOOD %HbA1c-6.1* eAG-128*
___ 08:21AM BLOOD Triglyc-93 HDL-39* CHOL/HD-2.6 LDLcalc-45
___ 08:21AM BLOOD TSH-2.0
___ 10:53AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGES:

EXAMINATION:  CT HEAD W/O CONTRAST Q111 CT HEAD 
  
INDICATION:  ___ man with falls, dizzinesss, who can't 
deviate his 
right eye to the left.  Rule out intracranial process. 
  
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without 
contrast. Coronal and sagittal reformations as well as bone 
algorithm 
reconstructions were provided and reviewed. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 18.0 s, 18.2 cm; CTDIvol = 49.7 mGy 
(Head) DLP = 
903.1 mGy-cm. 
 Total DLP (Head) = 903 mGy-cm. 
  
COMPARISON:  No prior relevant imaging is available on PACS at 
the time of 
this dictation. 
  
FINDINGS:  
  
No evidence of acute infarction,hemorrhage,edema, or mass 
effect.  Bilateral, 
symmetric prominence of the ventricles and sulci indicates 
cortical volume 
loss.  Bilateral cavernous internal carotid artery and V4 
vertebral artery 
calcifications are extensive. 
  
No evidence of fracture.  Mucosal thickening in the right 
maxillary sinus is  mild.  A left maxillary sinus mucous 
retention cyst is small.  The frontal sinuses are 
underpneumatized.  The visualized portion of the remaining 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear.  Bilateral scleral calcifications are normal for the 
patient's age. 
  
IMPRESSION:  
  
1.  No acute intracranial hemorrhage. 
2.  Cortical atrophy. 
3.  Minimal paranasal sinus disease. 
  
___ CTA HEAD AND NECK
IMPRESSION: 
  
  
1. Focus of low-attenuation right pons may be artifact or 
infarct.  Chronic 
left cerebellar small infarct.. 
2. Advanced intracranial atheromatous plaque, with severe 
narrowing of the 
cavernous segment of the left internal carotid artery, an area 
of occlusion 
within the right V4 segment, and other areas of severe narrowing 
with the 
bilateral V4 segments. 
3. Advanced extracranial vascular narrowing.  Long segment wall 
thickening and 
moderate to severe narrowing bilateral vertebral arteries.  
Short-segment 
narrowing high cervical ICAs bilaterally, with approximately 50% 
narrowing of 
right internal carotid artery and 60 % narrowing of the distal 
left internal 
carotid artery.  Findings may be from aggressive atheromatous 
disease.  
Component of arterial dissection, particularly on the vertebral 
arteries 
cannot be excluded.  Please note that medium to large vessel 
vasculitis could 
have a similar appearance, however is considered less likely 
given the 
patient's age, clinically correlate. 

MRI and MRA BRAIN W/O CONTRAST ___:
IMPRESSION: 
1. Moderately degraded exam due to motion artifact. 
2. Acute to subacute infarcts within the lower right cerebral 
peduncle and 
adjacent to the floor of the third ventricle to the right of 
midline in the  expected location of the trochlear nucleus and 
medial longitudinal fasciculus. 
No definite intracranial hemorrhage. 
3. Occlusion of the proximal V4 segment and severe narrowing of 
the left V4 segment and cavernous segment of the left internal 
carotid artery.  These findings are much better appreciated on 
CTA from the previous day ___.  No new arterial 
occlusion is identified within the circle ___ or major 
branches. 
  

 
Brief Hospital Course:
___ man with HTN, hyperlipidemia, h/o prostate cancer, 
who presented for subacute progressive dizziness and unsteady 
gait, found to have acute to subacute infarcts in right medial 
longitudinal fasciculus. His exam is notable for a somewhat 
confabulatory, intattentive gentleman with a right INO causing 
diplopia, with full stength except right IP, impaired 
proprioception, and a wide based, unsteady gait with a tendency 
to retropulse backwards. 

Imaging notable for acute to subacute infarct in lower right 
cerebral peduncle, in location of the trochlear nucleus and 
medial longitudinal fasciculus. Etiology of his stroke is likely 
secondary to artery-to-artery emboli based on CTA demonstrating
occlusion of the right vertebral artery and sevre stenosis of 
the left vertebral artery. Another possible stroke etiology is 
hypoperfusion. TTE without intracardiac source of clot 
(suboptimal study). Telemetry during hospital admission was 
without events of arrhythmia. 

TRANSITIONAL ISSUES:
- discontinue clopidogrel in 3 months, continue Aspirin

# acute to subacute right pontine infarct, including right MLF
- Stroke risk factors: HbA1C 6.1%, LDL 45
- continue aspirin 81mg, clopidogrel 75 (started here) for total 
of 3 months then transition to aspirin alone (___)
- continue atorvastatin 80 (home dose) 
- BP goal: ___ to help maintain perfusion to the 
posterior circulation in the setting of the severe posterior 
circulation arterial atherosclerosis. 
- dispo to acute rehab for further ___

# Prophylaxis and Hospital issues:  
- DVT: SQ heparin/pneumoboots, re-assess per mobility with ___ 
in rehab  
- Health Care Proxy: ___
Relationship:Wife
Phone ___
- Code Status: Full

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done 
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes   
 4. LDL documented? (x) Yes (LDL =45)
 5. Intensive statin therapy administered? (x) Yes 
 6. Smoking cessation counseling given? (x) Yes 
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes 
 10. Discharged on antithrombotic therapy? (x) Yes Type: (x) 
Antiplatelet 
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Lisinopril 10 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  Cyanocobalamin 250 mcg PO DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  Heparin 5000 UNIT SC BID 
UNTIL ___ RE-ASSESSES PATIENT'S MOBILITY STATUS IN REHAV  
7.  Senna 8.6 mg PO BID:PRN constipation  
8.  Thiamine 100 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10. HELD- Lisinopril 10 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you talk to your primary care 
physician, goal SBP 110-150

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
subacute ischemic stroke
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
 
Dear Mr. ___,  
 
You were hospitalized due to symptoms of dizziness and gait 
instability resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
High cholesterol, High Blood Pressure,

We are changing your medications as follows:  
- Cholesterol lowering medication changed to: Atorvastatin 80 mg 

- START TAKING aspirin 81 mg every day for three months
- START TAKING clopidogrel 75mg every day three months
*** After three months you should discontinue the clopidogrel 
and continue only on aspirin 81 mg daily.
- STOP TAKING SIMVASTATIN
- STOP TAKING LISINOPRIL 10MG until you follow-up with your 
primary 
  care physician and with your neurologist

Please take your other medications as prescribed. Please 
follow-up with Neurology and your primary care physician. If you 
experience any of the symptoms below, please seek emergency 
medical attention by calling Emergency Medical Services (dialing 
911). In particular, since stroke can recur, please pay 
attention to the sudden onset and persistence of these symptoms: 

 
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
 
Your ___ Neurology Team  

 
Followup Instructions:
___